US07951794B2
At 10° C., p-tolyl-acetaldehyde (11.0 g, 82 mmol) is added to a mixture of POCl3 (20 mL, 230 mmol) and DMF (20 mL). The mixture is stirred at rt for 2 h before the reaction is quenched by adding water/ice and NaOAc and extracted with DCM (2×200 mL). The solvent of the organic extract is evaporated and the product is purified by CC on silica gel eluting with heptane:EA 9:1. The resulting oil (1.95 g) is dissolved in ethanol (5 mL) and then added dropwise to a freshly prepared solution of Na (370 mg, 16.2 mmol) and ethyl-2-mercaptoacetate (1.95 g, 16.2 mmol) in ethanol (20 mL). The reaction mixture is stirred at it for 72 h, diluted with water (100 mL) and extracted with EA (2×150 mL). The organic extracts are dried over MgSO4 and evaporated. CC on silica gel eluting with heptane:EA 5:1 gives 4-p-tolyl-thiopene-2-carboxylic acid ethyl ester (850 mg). This ester is dissolved in ethanol (10 mL) and 3 M aq. NaOH (5 mL) and the mixture is refluxed for 2 h. The reaction mixture is acidified and extracted with DCM. The organic extract is dried over MgSO4 and the solvent is evaporated to give 4-p-tolyl-thiophene-2-carboxylic acid (580 mg) as a solid; LC-MS: tR=0.91 min, [M+1+CH3CN]+=260.16, 1H NMR (CDCl3): δ 8.14 (s, 1H), 7.70 (s, 1H), 7.50 (d, J=7.6 Hz, 2H), 7.24 (d, J=7.6 Hz, 2H), 7.05 (s br, 1H), 2.39 (s, 3H).

reactant | p-tolyl-acetaldehyde | 82 mmol, 11.0 g | C1(=CC=C(C=C1)CC=O)C | C9H10O
reactant | POCl3 | 230 mmol, 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | ethyl-2-mercaptoacetate | 16.2 mmol, 1.95 g | C(C)OC(CS)=O | C4H8O2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-p-tolyl-thiopene-2-carboxylic acid ethyl ester | 850 mg | C(C)OC(=O)C=1SC=C(C1)C1=CC=C(C=C1)C | C14H14O2S
